US05034417
A mixture of 3-(2,4-difluorophenylthio)-4-nitrobenzonitrile (3.6 g), sulfuric acid (3 ml) and water (3 ml) as stirred at 175° C. for 15 minutes. Water as added to the reaction mixture, and the mixture was extracted with ethyl acetate. The extract was dried over magnesium sulfate and evaporated to give crystals of 3-(2,4-difluorophenylthio)-4-nitrobenzoic acid (3.6 g).

reactant | 3-(2,4-difluorophenylthio)-4-nitrobenzonitrile | 3.6 g | FC1=C(C=CC(=C1)F)SC=1C=C(C#N)C=CC1[N+](=O)[O-] | C13H6F2N2O2S
reactant | sulfuric acid | 3 ml | S(O)(O)(=O)=O | H2O4S
reactant | Water | O | H2O
reactant | water | 3 ml | O | H2O
product | 3-(2,4-difluorophenylthio)-4-nitrobenzoic acid | 3.6 g | FC1=C(C=CC(=C1)F)SC=1C=C(C(=O)O)C=CC1[N+](=O)[O-] | C13H7F2NO4S
